US07737141B2
Synthesis of 1-[(3R,5R)-5-(3,4,5-trifluorophenyl)morpholine-3-yl]ethanone
A suspension of (3R,5R)-3-acetyl-5-(3,4,5-trifluorophenyl)morpholine-4-carboxylic acid benzyl ester (800 mg) and 10% palladium-carbon (79.2 mg, 50% water content) in ethanol (15 mL) was stirred under a hydrogen atmosphere for 15 minutes. The catalyst was filtered off over Celite. The obtained filtrate was concentrated, to thereby obtain the titled compound (529 mg). The physical properties of the compound were as follows.

reactant | (3R,5R)-3-acetyl-5-(3,4,5-trifluorophenyl)morpholine-4-carboxylic acid benzyl ester | 800 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](COC[C@H]1C1=CC(=C(C(=C1)F)F)F)C(C)=O | C20H18F3NO4
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 79.2 mg | [C].[Pd]
product | 1-[(3R,5R)-5-(3,4,5-trifluorophenyl)morpholine-3-yl]ethanone | 529 mg | FC=1C=C(C=C(C1F)F)[C@@H]1COC[C@@H](N1)C(C)=O | C12H12F3NO2
